US07592363B2
Preparation of 2-(3-{3-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}phenyl)-2-methylpropanoic acid methyl ester
3-(2-Benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenol (96 mg, 0.26 mmol), 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester (80 mg, 0.26 mmol), Cu(OAc)2 (47 mg, 0.26 mmol) and pyridine (42 μL, 0.52 mmol) were dissolved in 3 ml anhydrous CH2Cl2 and stirred at room temperature with crushed molsieves (4 Å) overnight. The reaction mixture was diluted with 1 M HCl (aq.) and the product was extracted three times with CH2Cl2. The combined organic phases were dried, evaporated and the crude material was purified by preparative HPLC using a gradient with an acidic mobile phase on an ACE-C8 column to afford 8.4 mg of analytically pure product.

reactant | 3-(2-Benzyl-7-trifluoromethyl-2H-indazol-3-yl)-phenol | 0.26 mmol, 96 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C=1C=C(C=CC1)O)C(F)(F)F | C21H15F3N2O
reactant | 2-methyl-2-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid methyl ester | 0.26 mmol, 80 mg | COC(C(C)(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C17H25BO4
reactant | pyridine | 0.52 mmol, 42 μL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 1 M | Cl | ClH
catalyst | Cu(OAc)2 | 0.26 mmol, 47 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 2-(3-{3-[2-benzyl-7-(trifluoromethyl)-2H-indazol-3-yl]phenoxy}phenyl)-2-methylpropanoic acid methyl ester | COC(C(C)(C)C1=CC(=CC=C1)OC1=CC(=CC=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=CC=CC=C1)=O | C32H27F3N2O3
